US07786132B2
1-(2-(4-(5-(4-Fluorobenzyl)-4-(2-hydroxyethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
Tetrabutylammonium fluoride (5 mL, 1M in tetrahydrofuran, 5.00 mmol) was added slowly to a solution of 1-(2-(4-(5-(4-fluorobenzyl)-4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione (1.8 g, 2.66 mmol) in tetrahydrofuran (40 mL) at rt. After stirring at rt for 4 h, 100 mL of water was added. The mixture was extracted with ethyl acetate 3×100 mL). The combined organic layers were washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the product purified by flash chromatography eluting with methanol/dichloromethane (1:30) to give the title compound as a slightly yellow solid (1.2 g, 80%).

reactant | Tetrabutylammonium fluoride | 5.00 mmol, 1M, 5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(2-(4-(5-(4-fluorobenzyl)-4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | 2.66 mmol, 1.8 g | FC1=CC=C(CC2=C(C=C(S2)C2=NC(=NC=C2Br)NCCN2C(NC(C2(C)C)=O)=O)CCO[Si](C)(C)C(C)(C)C)C=C1 | C30H39BrFN5O3SSi
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(2-(4-(5-(4-Fluorobenzyl)-4-(2-hydroxyethyl)thiophen-2-yl)-5-bromopyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | FC1=CC=C(CC2=C(C=C(S2)C2=NC(=NC=C2Br)NCCN2C(NC(C2(C)C)=O)=O)CCO)C=C1 | C24H25BrFN5O3S
